US04054572
2-dimethylamino-10 -methyl-1,2,3,4,10,14b-hexahydro-pyridino[1,2-d]-dibenzo[b,f](1,4)-diazepine (2equatorial);
melting point: 210°-212° C as HCl salt. 2-dimethylamino-10-methyl-7-methoxy-1,2,3,4,10,14b-hexahydro-pyridino[ 1,2-d]-dibenzo[b,f](1,4)-diazepine.

reactant | HCl | Cl | ClH
reactant | 2-dimethylamino-10-methyl-7-methoxy-1,2,3,4,10,14b-hexahydro-pyridino[ 1,2-d]-dibenzo[b,f](1,4)-diazepine | CN(C1CC2N(C3=C(N(C4=C2C=CC=C4)C)C=CC(=C3)OC)CC1)C | C21H27N3O
product | 2-dimethylamino-10 -methyl-1,2,3,4,10,14b-hexahydro-pyridino[1,2-d]-dibenzo[b,f](1,4)-diazepine | CN(C1CC2N(C3=C(N(C4=C2C=CC=C4)C)C=CC=C3)CC1)C | C20H25N3
